US07358250B2
Step A: 1-Allyl-2-amino-4,5-diphenyl-1H-pyrrole-3-carbonitrile
A solution of benzoin (6.81 g, 32.1 mmol), allylamine (2 g, 35 mmol) and p-toulenesulfonic acid monohydrate (20 mg, cat.) in toluene (100 mL) was heated to 80° C. for 5 minutes. Malononitrile (2.12 g, 32.1 mmol) was then added and the reaction mixture was heated to reflux for 3 hours using a reflux condenser fitted with a Dean-Stark trap. The solution was then cooled, diluted with ethyl acetate (100 mL), extracted with sodium bicarbonate (conc., aq., 50 mL), hydrochloric acid (0.5 N, aq., 50 mL) and water (50 mL), dried, filtered and the filtrate was concentrated under reduced pressure. Chromatography (SiO2, ethyl acetate:hexane 1:2) afforded the title compound as a pale brown solid.

reactant | benzoin | 32.1 mmol, 6.81 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | allylamine | 35 mmol, 2 g | C(C=C)N | C3H7N
reactant | Malononitrile | 32.1 mmol, 2.12 g | C(CC#N)#N | C3H2N2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-Allyl-2-amino-4,5-diphenyl-1H-pyrrole-3-carbonitrile | C(C=C)N1C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C#N)N | C20H17N3
